### PR TITLE
Sorted Maps

### PR DESCRIPTION
**Pull request by olynch**
# Description

This is a PR for adding sorted maps based on:

- https://personal.cis.strath.ac.uk/conor.mcbride/Pivotal.pdf
- https://doi.org/10.1017/S0956796800000885

Work in progress!

## Checklist

Before submitting a merge request, please check the items below:

- [ ] I've read [the contributing guidelines](https://github.com/plt-amy/1lab/blob/main/CONTRIBUTING.md).
- [ ] The imports of new modules have been sorted with `support/sort-imports.hs` (or `nix run --experimental-features nix-command -f . sort-imports`).
- [ ] All new code blocks have "agda" as their language.

If your change affects many files without adding substantial content, and
you don't want your name to appear on those pages (for example, treewide
refactorings or reformattings), start the commit message and PR title with `chore:`.

### CODE REVIEW

File: src/Data/Map/Base.lagda.md [hunk 1]
```diff
@@ -0,0 +1,71 @@
...
+
+  variable i : II
+
+  interleaved mutual
+    data Tree : II -> Type
+    size : Tree i -> Nat
+
+    data _ where
+      Leaf : Valid i -> Tree i
+      Node : (p : Ob) -> (l : Tree 〚 i .l , p 〛) -> (r : Tree 〚 p , i .r 〛) -> (n : Nat) -> (n ≡ 1 + size l + size r) -> Tree i
```
Comment (plt-amy) [inline src/Data/Map/Base.lagda.md]: a sequence of binders like this doesn't need the intervening arrows until the unnamed argument (which doesn't need parentheses)

File: src/Data/Map/Base.lagda.md [hunk 2]
```diff
@@ -0,0 +1,71 @@
...
+
+    size (Leaf _) = 0
+    size (Node _ _ _ n _) = n
+
+  interleaved mutual
```
Comment (plt-amy) [inline src/Data/Map/Base.lagda.md]: i'm putting this here but it applies to the one above too; i don't think either of these need to be interleaved mutual blocks (those are for when you want to write the *clauses* of the functions interleaved), or even mutual blocks at all- do the forward declarations not suffice?

File: src/Data/Map/Base.lagda.md (hunk 1 above)
Comment (plt-amy) [reply src/Data/Map/Base.lagda.md]: oh and this path in Nat could probably be made irrelevant, no sense reducing it to print the normal form of a map

File: src/Data/Map/Base.lagda.md [hunk 3]
```diff
@@ -0,0 +1,71 @@
...
+    insert : Tree i -> Elt i -> Tree i
+    insertSize : (t : Tree i) -> (e : Elt i) -> 1 + size t ≡ size (insert t e)
```
Comment (plt-amy) [inline src/Data/Map/Base.lagda.md]:
```suggestion
    size-insert : (t : Tree i) -> (e : Elt i) -> 1 + size t ≡ size (insert t e)
```

definitely not camelCase (but i don't think we have rules for what order the words in the name should go in, so `insert-size` might also be fine if you prefer that)

**Review by plt-amy — CHANGES_REQUESTED** [review]
i didn't look at the papers so this is just code style for now

**Comment by Lavenza** [comment]
[Pull request preview](https://preview.1lab.dev/581)
##### New pages

  * [Data.Map.Base](https://preview.1lab.dev/581/Data.Map.Base.html) (+72, -0)
  * [Data.Map](https://preview.1lab.dev/581/Data.Map.html) (+10, -0)
  * [Data.Map.Properties](https://preview.1lab.dev/581/Data.Map.Properties.html) (+3, -0)

File: src/Data/Map/Base.lagda.md [hunk 4]
```diff
@@ -0,0 +1,72 @@
...
+
+  insert (Leaf _) (elt p lp pr) = Node p (Leaf lp) (Leaf pr) 1 refl
+  insert (Node q l r n pf) (elt p lp pr) with compare p q
+  ... | inl pq =
+    let e' = elt p lp pq in
+    let l' = insert l e' in
+    let pf' = 1 + n ≡⟨ ap suc pf ⟩ 1 + (1 + size l + size r)
+                    ≡⟨ ap ((λ k → 1 + k + size r)) (size-insert l e') ⟩
+                    1 + (size l' + size r) ∎ in
+      Node q l' r (1 + n) pf'
```
Comment (plt-amy) [inline src/Data/Map/Base.lagda.md]:
```suggestion
    let
      e' = elt p lp pq
      l' = insert l e'
      pf' = 1 + n                     ≡⟨ ap suc pf ⟩
            1 + (1 + size l + size r) ≡⟨ ap ((λ k → 1 + k + size r)) (size-insert l e') ⟩
            1 + (size l' + size r)    ∎
    in node q l' r (1 + n) pf'
```

**Review by plt-amy — CHANGES_REQUESTED** [review]

**Comment by olynch** [comment]
Thanks @plt-amy!! I'll rebase and check it out!!

File: src/Data/Map/Base.lagda.md (hunk 4 above)
Comment (olynch) [reply src/Data/Map/Base.lagda.md]: This is precisely what I was hoping to get out of submitting a PR to 1lab XD

**Comment by olynch** [comment]
It seems like `ap!` and `nat!` don't interact well, so I had to add a refl step to my equality proof. But other than that, this cleaned up the proofs a lot!
